US07459567B2
Methyl [4-(2-chlorophenyl)-2-(4-{[( 1-ethylpropyl)amino]carbonyl}phenyl)thien-3-yl]acetate (0.145 g, 0.328 mmol) was dissolved in EtOH (2 mL). NaOH (0.65 mL, 1N, 0.65 mmol) was added and the solution heated to reflux for 5 h. HCl (0.35 mL, 2N, 0.70 mmol) was added and the solvent removed. The mixture was partitioned between EtOAc and H2O. The EtOAc layer was dried (MgSO4) and the solvent removed to yield [4-(2-chlorophenyl)-2-(4-{[(1-ethylpropyl)amino]carbonyl}phenyl)thien-3-yl]acetic acid (0.138 g) as a white solid. mp 101-103° C. 1H NMR (500 MHz, DMSO-d6) δ: 0.88 (t, 6H, J=7.3 Hz), 1.50 (m, 2H), 1.55 (m, 2H), 3.42 (s, 2H), 3.82 (m, 1H), 7.35 (m, 1H), 7.42 (m, 3H), 7.58 (m, 3H), 7.96 (d, 2H, J=8.4 Hz), 8.11 (d, 1H, J=8.7 Hz). MS (ES) m/z 442.1 ([M+H]+). MS (ES) m/z 883.1 ([2M+H]+). Anal. Calcd for C24H24ClNO3S: C, 65.22; H, 5.47; N, 3.17. Found: C, 62.33; H, 5.54; N, 3.01.

reactant | Methyl [4-(2-chlorophenyl)-2-(4-{[( 1-ethylpropyl)amino]carbonyl}phenyl)thien-3-yl]acetate | 0.328 mmol, 0.145 g | ClC1=C(C=CC=C1)C=1C(=C(SC1)C1=CC=C(C=C1)C(=O)NC(CC)CC)CC(=O)OC | C25H26ClNO3S
reactant | NaOH | 0.65 mmol, 1N, 0.65 mL | [OH-].[Na+]
reactant | HCl | 0.70 mmol, 2N, 0.35 mL | Cl | ClH
solvent | EtOH | 2 mL | CCO | C2H6O
product | [4-(2-chlorophenyl)-2-(4-{[(1-ethylpropyl)amino]carbonyl}phenyl)thien-3-yl]acetic acid | 0.138 g | ClC1=C(C=CC=C1)C=1C(=C(SC1)C1=CC=C(C=C1)C(=O)NC(CC)CC)CC(=O)O | C24H24ClNO3S
